US06051210
4-(((3,5-Bis(Acetylmethylamino)-2,4,6-triiodophenyl)carbonyl)amino)-benzeneacetic acid (XIIa) (Scheme 1)
A mixture of MDTA-Cl X (2.18 g, 3.3 mmole) and p-aminophenylacetic acid (1.2 g, 8.27 mmole) in DMA (8 mL) was stirred at 60° C. for 30 h. The solvent was removed and the residue was treated with hot EtOAc (600 mL) containing EtOH (25 mL). The solution was filtered and the filtrate was freed of the solvent. The solid was recrystallized from EtOAc--EtOH to afford the title compound as a white amorphous solid (1.54 g, 57%).

reactant | 3,5-Bis-(Acetylmethylamino)-2,4,6-triiodobenzene carbonyl chloride | C(C)(=O)CNC=1C(=C(C(=C(C1I)NCC(C)=O)I)C(=O)Cl)I | C13H12ClI3N2O3
reactant | p-aminophenylacetic acid | 8.27 mmole, 1.2 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
solvent | DMA | 8 mL | CC(=O)N(C)C | C4H9NO
product | 4-(((3,5-Bis(Acetylmethylamino)-2,4,6-triiodophenyl)carbonyl)amino)-benzeneacetic acid | 1.54 g, 57% | C(C)(=O)CNC=1C(=C(C(=C(C1I)NCC(C)=O)I)C(=O)NC1=CC=C(C=C1)CC(=O)O)I | C21H20I3N3O5
